US05143919
To a solution of DBU (5.1 g) in benzene (50 ml) was added dropwise a solution of 3-(2-chlorobenzoyl)-2-(2-nitroethenylamino)-5-ethylthiophene (5.1 g) in dioxane-benzene (1 : 1, 30 ml}over one hour with stirring under reflux. After refluxing for additional one hour, the mixture was washed with water and dried over MgSO4. The solvent was distilled off and to the residue was added isopropyl ether to obtain 4-(2-chlorophenyl)-2-ethyl-5-nitrothieno[2,3-b]pyridine as crystals (4.3 g, 89.0%). The crystals were recrystallized from isopropyl ether to obtain pale yellow prisms, mp: 72°-73° C.

reactant | DBU | 5.1 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 3-(2-chlorobenzoyl)-2-(2-nitroethenylamino)-5-ethylthiophene | 5.1 g | ClC1=C(C(=O)C2=C(SC(=C2)CC)NC=C[N+](=O)[O-])C=CC=C1 | C15H13ClN2O3S
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | dioxane benzene | O1CCOCC1.C1=CC=CC=C1
product | 4-(2-chlorophenyl)-2-ethyl-5-nitrothieno[2,3-b]pyridine | 4.3 g, 89.0% | ClC1=C(C=CC=C1)C1=C2C(=NC=C1[N+](=O)[O-])SC(=C2)CC | C15H11ClN2O2S
